US04808721
Preparation of 2,6-Difluoro-3-pyridinecarboxylic acid, methyl ester
To a stirred solution of 91 ml (0.182 mol) of 2.0 molar lithium diisopropylamide (in hexanes) in 200 mL dry tetrahydrofuran cooled to -70° under nitrogen was added dropwise a solution of 20.0 g of 2,6-difluoropyridine (0.174 mol) in 75 mL dry tetrahydrofuran such that the temperature was maintained below -60°. The solution was stirred at -70° fo 3 hours and was then added via a cannula to a solution 21.7 g (0.230 mol) of methyl chloroformate in 100 mL dry tetrahydrofuran cooled to -70° under nitrogen. After stirring another hour at -70°, the mixture was poured into water and extracted with ether. The combined organic layers were washed with brine, dried over magnesium sulfate, and evaporated to a semisolid which was purified by flash chromatography to afford 13.0 g (43%) orange oil: NMR (CDCl3, 200 MHz) 3.95 (3H, s), 6.9 (1H, m), 8.5 (1H, m); IR (neat) 1745, 1730, 1610, 1415, 1290 cm-1.

reactant | lithium diisopropylamide | 0.182 mol, 2.0 molar, 91 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,6-difluoropyridine | 0.174 mol, 20.0 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | methyl chloroformate | 0.230 mol, 21.7 g | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2,6-Difluoro-3-pyridinecarboxylic acid, methyl ester | 13.0 g, 43% | FC1=NC(=CC=C1C(=O)OC)F | C7H5F2NO2
